2121-12-02 00:48:00 Physician Attending Progress Note
Chief Complaint: worsening encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54W worsening mental status over past 2 days, increasing agitation and
   confusion. Recent admission for hepatic encephalopathy, improved with
   lactulose. In ER, vitals stable, head CT unremarkable.
   Labs notable for positive UA. Given lorazepam and she became nearly
   unresponsive. Transferred to ICU.
   24 Hour Events:
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash;
   Ciprofloxacin
   Prolonged QT;
   Last dose of Antibiotics:
   Ceftriaxone - [**2121-12-1**] 10:33 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   cirrhosis - HCV
   hepatorenal syndrome - ESRD
   h/o SBP
   HTN
   DM
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-2**] 12:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 95 (77 - 95) bpm
   BP: 145/83(97) {145/72(97) - 201/89(118)} mmHg
   RR: 12 (12 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     65 mL
                                                                      7 mL
   PO:
             TF:
   IVF:
                                                                     65 mL
                                                                      7 mL
   Blood products:
   Total out:
                                                                     22 mL
                                                                      0 mL
   Urine:
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     43 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.53/34/108//6
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: midline incision
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   60
   27
   34.7
   4.4
        [image002.jpg]
                             [**2121-12-1**]  11:08 PM
   TCO2
   29
   Other labs: PT / PTT / INR://1.7
   Fluid analysis / Other labs: paracentesis WBC 155
   UA positive
   Imaging: CXR unremarkable
   Assessment and Plan
   encephalopathy - suspect related to cirhosis, unclear trigger other
   than UTI. Continue lactulose and rifaximin
   UTI - abx
   ESRD - HD tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-12-1**] 09:10 PM
   Tunneled (Hickman) Line - [**2121-12-1**] 09:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-12-02 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54 year old female with a history of ESLD on Tx list
   c/b SBP and HRS, HTN, DM who p/w altered mental status.
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2121-12-1**] 09:12 PM
   - Episode of hypertension to 190/82 overnight treated with an extra
   home dose Nadolol
   Allergies:
   Penicillins
   Rash;
   Ciprofloxacin
   Prolonged QT;
   Last dose of Antibiotics:
   Ceftriaxone - [**2121-12-1**] 10:33 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-2**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 103 (75 - 103) bpm
   BP: 104/56(68) {96/56(65) - 201/89(118)} mmHg
   RR: 16 (10 - 17) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56.3 kg
             Total In:
                                                                     65 mL
                                                                    435 mL
   PO:
             TF:
   IVF:
                                                                     65 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                     22 mL
                                                                     25 mL
   Urine:
                                                                     22 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     43 mL
                                                                    410 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.53/34/108/24/6
   Physical Examination
   General: Somnolent
   HEENT: Sclera anicteric, MMM, oropharynx clear, Pupils 4-5mm, reactive
   to light
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: RRR with systolic murmur heard best at right sternal border
   Abdomen:  Midline abdominal inscision.  Soft, non-tender, distended,
   bowel sounds present, no rebound tenderness or guarding, no
   organomegaly.  Ascites present.
   GU: Foley in place, reducible mass palpated.
   Ext: Warm, well perfused, no clubbing, cyanosis, + pitting edema in LE
   bilaterally
   Neuro: Patient withdraws to pain, occasional movement of all four
   limbs.
   Labs / Radiology
   68 K/uL
   10.2 g/dL
   87 mg/dL
   7.9 mg/dL
   24 mEq/L
   4.7 mEq/L
   33 mg/dL
   100 mEq/L
   135 mEq/L
   32.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2121-12-1**]  11:08 PM
                             [**2121-12-2**]  03:21 AM
   WBC
   6.8
   Hct
   32.5
   Plt
   68
   Cr
   7.9
   TCO2
   29
   Glucose
   87
   Other labs: PT / PTT / INR:18.3/42.2/1.7, ALT / AST:23/54, Alk Phos / T
   Bili:225/3.9, LDH:397 IU/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.5
   mg/dL
   Paracentesis WBC 155
   [**12-1**] Peritoneal fluid culture
 Pending
   [**12-1**] Urine culture
 Pending
   [**12-1**] MRSA screen
 Pending
   [**12-1**] CT head
 Final; negative
   [**12-1**] CXR
 Final read pending
   Assessment and Plan
   54 year old female with a history of ESLD on transfer list c/b SBP and
   HRS, HTN, DM who p/w altered mental status.
   .
   # AMS: Likely recurrent hepatic encephalopathy confounded by ativan
   administration in ED.  Patient with multiple admissions for hepatic
   encephalopathy.  Potential exacerbating causes include SBP, UTI,
   medication non-compliance.  No evidence of SBP on diagnostic
   paracentesis.  Unclear medication compliance as unable to get history.
   Likely etiology is UTI vs worsening liver disease.  Less likely would
   be uremia in setting of HD, however no other evidence of worsening
   renal function, patient seems adequately dialized.  BUN mildly
   elevated.
   - Continue lactulose titrate to [**1-22**] BM per day
   - Continue rifaximin
   - Place NGT so patient can receive medication
   - Continue treatment of UTI with ceftriaxone (avoiding cipro as had
   prolonged QTc in past)
   - Continue SBP prophylaxis
   - Continue HD per renal
   - Consider LP if patient does not improve
   - Follow up blood/urine/peritoneal cultures, toxicologies
   - Obtain ultrasound liver with Doppler
   - Obtain echocardiogram
   .
   # UTI: Possibly the etiology of her worsening AMS or at least
   contributing. Patient with long QT when receiving cipro. Will treat
   with ceftriaxone as tolerated cephalosporins in past.
   - Continue treatment of UTI with ceftriaxone (avoiding cipro as had
   prolonged QTc in past). Likely keep on treatment for at least 48 hrs
   pending culture results. If any turn positive, low threshold to add
   coverage for nosocomial etiologies.
   - Follow up urine culture
   .
   # SBP: Negative by diagnostic paracentesis, but patient has had history
   of positive cultures in these cases. Possible precipitant of patient
   worsening AMS or at least contributing.
   - Continue ceftriaxone - should cover SBP prophylaxis; can consider
   cefpodoxime when off ceftriaxone. Likely keep on treatment for at least
   48 hrs pending culture results. If any turn positive, low threshold to
   add coverage for nosocomial etiologies.
   - Follow up GI/hepatology consult recommendations
   .
   # ESLD: ESLD secondary to hepatitis C, complicated by ascites,
   encephalopathy, varices, currently listed for transplant.
   - Will continue treatment of encephalopathy/AMS per above
   - Follow up transplant surgery consult recommendations
   - Continue nadolol
   - Continue lactulose titrate to [**1-22**] BM per day
   - Continue rifaximin
   - Follow up GI/hepatology consult recommendations
   - Continue ceftriaxone - should cover SBP prophylaxis; can consider
   cefpodoxime when off ceftriaxone. Likely keep on treatment for at least
   48 hrs pending culture results. If any turn positive, low threshold to
   add coverage for nosocomial etiologies.
   .
   # ESRD/hepatorenal syndrome: Patient is dialysis dependent. Continue HD
   per renal, MWF.
   - Obtain blood cultures off dialysis catheter line today in HD
   .
   # DM: Insulin sliding scale while NPO.
   .
   # CVA: History of CVA that converted from an embolic stroke to a
   hemorrhagic stroke following a fall.  Continue to hold anticoagulation.
   .
   # FEN: No IVF, replete electrolytes, currently NPO
   # Prophylaxis: Pneumoboots
   # Access: Peripherals, right dialysis catheter
   # Communication: Patient
s husband
   # Code:  Full
   # Disposition: ICU pending clinical improvement; likely candidate for
   floor later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-12-1**] 09:10 PM
   Tunneled (Hickman) Line - [**2121-12-1**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-12-03 07:18:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-12-2**] 10:53 AM
   - Renal: HD last night, 1.5 liters removed.
   - Transplant: - as noted by hepatology team, rifaximin, lactulose,
   cultures,f/u head ct; Transplant surgery will follow. F/U peritoneal
   cultures, blood cultures, stool cultures. Monitor mental status exam
   - Abd US with Doppler: Cirrhotic liver, ascites, gallstone, reverse
   flow in her splenic vein (some type of shunt), portal vein is patent.
   - ECHO: The left atrium is mildly dilated. Left ventricular wall
   thicknesses are normal. The left ventricular cavity is unusually small.
   Regional left ventricular wall motion is normal. Left ventricular
   systolic function is hyperdynamic (EF>75%). There is a mild resting
   left ventricular outflow tract obstruction. The right ventricular
   cavity is borderline dilated with normal free wall contractility. The
   aortic valve leaflets (3) are mildly thickened but aortic stenosis is
   not present. There is minimal aortic valve stenosis. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   The mitral valve leaflets are elongated. Moderate (2+) mitral
   regurgitation is seen. There is moderate pulmonary artery systolic
   hypertension. There is no pericardial effusion. IMPRESSION:
   Hyperdynamic left ventricular systolic function. Mild resting outflow
   tract gradient. Minimal aortic stenosis. Moderate pulmonary
   hypertension. Moderate mitral regurgitation. Compared with the prior
   study (images reviewed) of [**2121-7-2**], the severity of mitral
   regurgitation has increased while the severity of tricuspid
   regurgitation has decreased. Right ventricular size is smaller.
   Estimated pulmonary artery pressures are higher. The heart rate is
   faster.
   - Tox Screen:  Negative
   - Mental Status/Bowel Movement: Increased lactulose to Q4Hrs moving
   bowels, Flexiseal placed. Decreased back to Q6Hrs given copius bowel
   movements. Patient slightly more arrousable to pain.
   -Tachycardic during HD. EKG with Sinus Tachycardia. Resolved after HD.
   Allergies:
   Penicillins
   Rash;
   Ciprofloxacin
   Prolonged QT;
   Benzodiazepines
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2121-12-2**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 93 (78 - 118) bpm
   BP: 107/58(69) {94/52(63) - 158/107(117)} mmHg
   RR: 10 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56.3 kg
             Total In:
                                                                    951 mL
                                                                    252 mL
   PO:
             TF:
   IVF:
                                                                    291 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                    210 mL
   Urine:
                                                                     75 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    876 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.54/33/89.[**Numeric Identifier 299**]/25/5
   Physical Examination
   General: Somnolent
   HEENT: Sclera anicteric, MMM, oropharynx clear, Pupils 4-5mm, reactive
   to light
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: RRR with systolic murmur heard best at right sternal border
   Abdomen:  Midline abdominal inscision.  Soft, non-tender, distended,
   bowel sounds present, no rebound tenderness or guarding, no
   organomegaly.  Ascites present.
   GU: Foley in place, reducible mass palpated.
   Ext: Warm, well perfused, no clubbing, cyanosis, + pitting edema in LE
   bilaterally
   Neuro: Patient withdraws to pain, occasional movement of all four
   limbs.
   Labs / Radiology
   58 K/uL
   11.6 g/dL
   113 mg/dL
   5.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   20 mg/dL
   98 mEq/L
   136 mEq/L
   37.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2121-12-1**]  11:08 PM
                             [**2121-12-2**]  03:21 AM
                             [**2121-12-2**]  10:24 PM
                             [**2121-12-3**]  01:54 AM
   WBC
   6.8
   6.4
   Hct
   32.5
   37.2
   Plt
   68
   58
   Cr
   7.9
   5.7
   TCO2
   29
   29
   Glucose
   87
   113
   Other labs: PT / PTT / INR:18.5/40.4/1.7, ALT / AST:27/70, Alk Phos / T
   Bili:218/5.0, Differential-Neuts:67.0 %, Band:0.0 %, Lymph:21.0 %,
   Mono:11.0 %, Eos:1.0 %, Albumin:2.6 g/dL, LDH:456 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Imaging: RUQ US w/ duplex - not yet read.
   Microbiology: Peritoneal fluid with PMNs 1-5 per HPF. Cultures pending,
   no bateria seen on Gram stain.
   Assessment and Plan
   54 year old female with a history of ESLD on transfer list c/b SBP and
   HRS, HTN, DM who p/w altered mental status.
   # AMS: Likely recurrent hepatic encephalopathy confounded by ativan
   administration in ED.  Patient with multiple admissions for hepatic
   encephalopathy.  Potential exacerbating causes include SBP, UTI,
   medication non-compliance.  No evidence of SBP on diagnostic
   paracentesis.  Unclear medication compliance as unable to get history.
   Likely etiology is UTI vs worsening liver disease.  Less likely would
   be uremia in setting of HD, however no other evidence of worsening
   renal function, patient seems adequately dialized.  BUN mildly
   elevated.
   - Continue lactulose titrate to [**1-22**] BM per day
   - Continue rifaximin
   - Place NGT so patient can receive medication
   - Continue treatment of UTI with ceftriaxone (avoiding cipro as had
   prolonged QTc in past)
   - Continue SBP prophylaxis
   - Continue HD per renal
   - Consider LP if patient does not improve
   - Follow up blood/urine/peritoneal cultures, toxicologies
   - Obtain ultrasound liver with Doppler
   - Obtain echocardiogram
   # UTI: Possibly the etiology of her worsening AMS or at least
   contributing. Patient with long QT when receiving cipro. Will treat
   with ceftriaxone as tolerated cephalosporins in past.
   - Continue treatment of UTI with ceftriaxone (avoiding cipro as had
   prolonged QTc in past). Likely keep on treatment for at least 48 hrs
   pending culture results. If any turn positive, low threshold to add
   coverage for nosocomial etiologies.
   - Follow up urine culture
   # SBP: Negative by diagnostic paracentesis, but patient has had history
   of positive cultures in these cases. Possible precipitant of patient
   worsening AMS or at least contributing.
   - Continue ceftriaxone - should cover SBP prophylaxis; can consider
   cefpodoxime when off ceftriaxone. Likely keep on treatment for at least
   48 hrs pending culture results. If any turn positive, low threshold to
   add coverage for nosocomial etiologies.
   - Follow up GI/hepatology consult recommendations
   # ESLD: ESLD secondary to hepatitis C, complicated by ascites,
   encephalopathy, varices, currently listed for transplant.
   - Will continue treatment of encephalopathy/AMS per above
   - Follow up transplant surgery consult recommendations
   - Continue nadolol
   - Continue lactulose titrate to [**1-22**] BM per day
   - Continue rifaximin
   - Follow up GI/hepatology consult recommendations
   - Continue ceftriaxone - should cover SBP prophylaxis; can consider
   cefpodoxime when off ceftriaxone. Likely keep on treatment for at least
   48 hrs pending culture results. If any turn positive, low threshold to
   add coverage for nosocomial etiologies.
   # ESRD/hepatorenal syndrome: Patient is dialysis dependent. Continue HD
   per renal, MWF.
   - Obtain blood cultures off dialysis catheter line today in HD
   # DM: Insulin sliding scale while NPO.
   # CVA: History of CVA that converted from an embolic stroke to a
   hemorrhagic stroke following a fall.  Continue to hold anticoagulation.
   # FEN: No IVF, replete electrolytes, currently NPO
   # Prophylaxis: Pneumoboots
   # Access: Peripherals, right dialysis catheter
   # Communication: Patient
s husband
   # Code:  Full
   # Disposition: ICU pending clinical improvement; likely candidate for
   floor later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-12-1**] 09:10 PM
   Tunneled (Hickman) Line - [**2121-12-1**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-12-04 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hepatic Encephalopathy
   24 Hour Events:
   - Mental status clearing.
   - Had dialysis in early afternoon, with 1.2 L taken off. Was
   tachycardic at times during dialysis, but maintained pressure.
   - Stated was thirsty in the evening so started sponge sticks and ice
   chips.
   - Several runs of VT, often around 20 beats. On 20 mg QD nadolol. Did
   not increase overnight, but would consider this in the a.m.
   - Sustained SVT at 115 later with maintained pressures, SBP ~ 100s.
   Distinct from runs of VT.
   - EKG 115 bmp, Normal intervals and axis. Sinus tachycardia.
   - Very dry on physical exam with flat JVP, dry mouth and thirsty. Gave
   500 mL LR.
   - Reduced lactulose from 45 mg q6 to q8 given loose stool.
   Allergies:
   Penicillins
   Rash;
   Ciprofloxacin
   Prolonged QT;
   Benzodiazepines
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2121-12-2**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-4**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 117 (77 - 119) bpm
   BP: 110/63(73) {96/44(61) - 124/84(91)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 54 kg
   Height: 59 Inch
             Total In:
                                                                    850 mL
                                                                    892 mL
   PO:
             TF:
                                                                    190 mL
                                                                    227 mL
   IVF:
                                                                    240 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                  1,010 mL
   Urine:
                                                                     25 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   34 K/uL
   8.9 g/dL
   110 mg/dL
   3.9 mg/dL
   29 mEq/L
   3.1 mEq/L
   9 mg/dL
   105 mEq/L
   142 mEq/L
   29.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2121-12-1**]  11:08 PM
                             [**2121-12-2**]  03:21 AM
                             [**2121-12-2**]  10:24 PM
                             [**2121-12-3**]  01:54 AM
                             [**2121-12-4**]  01:59 AM
   WBC
   6.8
   6.4
   7.2
   Hct
   32.5
   37.2
   29.7
   Plt
   68
   58
   34
   Cr
   7.9
   5.7
   3.9
   TCO2
   29
   29
   Glucose
   87
   113
   110
   Other labs: PT / PTT / INR:19.2/42.2/1.8, ALT / AST:23/61, Alk Phos / T
   Bili:172/4.7, Amylase / Lipase:/129, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:21.0 %, Mono:11.0 %, Eos:1.0 %, Albumin:2.2 g/dL,
   LDH:456 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: No New Imaging
   Microbiology: Urine: Pending
   Blood: Pending
   Assessment and Plan
   54 year old female with a history of ESLD on transfer list c/b SBP and
   HRS, HTN, DM who p/w altered mental status.
   # AMS
   At arrival on the floor was comatose, but now is clearing slightly. Now
   moving spontaneously, but deeply stuporous/encephalopathic. Patient was
   likely encephalopathic on arrival in ED and was given ativan. Given
   flattening of mental status after this time, we attribute this as
   hepatic then medication-related. Clearing is also in context of
   rifaxamin and lactulose, with good stool output. Head CT on arrival
   also revealed no acute bleed or subacute infarction. UTI not convincing
   and no evidence for SBP yet, as infectious contributors to mental
   status. Uremia unlikely contributor given low BUN. Tox. Screen
   unrevealing.
   - Continue lactulose titrate to [**1-22**] BM per day
   - Continue rifaximin
   - Continue SBP prophylaxis with cefpodoxime (stop ceftriaxone)
   - Continue HD per renal
   - Follow up blood/urine/peritoneal cultures
   # Tachycardia:
   # UTI
   Less likely based on UA and culture.
   - Follow up urine culture
   # SBP
   No clear evidence for and better explanation for AMS as above. Will
   continue prophylaxis and follow culture.
   - Continue cefpodoxime and stop ceftriaxone
   - Broaden coverage depending on culture and subsequent sensitivities
   - Follow up GI/hepatology consult recommendations
   # ESLD
   ESLD secondary to hepatitis C, complicated by ascites, encephalopathy,
   varices, currently listed for transplant.
   - Will continue treatment of encephalopathy/AMS per above
   - Follow up transplant surgery consult recommendations
   - Continue nadolol
   - Continue lactulose titrate to [**1-22**] BM per day
   - Continue rifaximin
   - Follow up GI/hepatology consult recommendations
   - Cefpodoxime as above
   # ESRD/hepatorenal syndrome
   Patient is dialysis dependent. Continue HD per renal, MWF.
   - Continue dialysis and appreciate Renal input.
   # DM: Insulin sliding scale while NPO.
   # Previous CVA
   History of CVA that converted from an embolic stroke to a hemorrhagic
   stroke following a fall.  Continue to hold anticoagulation. No evidence
   or suggestion at this time, but Neurologic status will need to be
   followed closely. CT enough at this time, but if focality emerges from
   delirium, then will consider MR.
   # FEN: No IVF, replete electrolytes, Initiate tube feeds
   # Prophylaxis: Pneumoboots (no heparin because of thrombocytopenia)
   # Access: Peripherals, right dialysis catheter
   # Communication: Patient
s husband
   # Code:  Full
   # Disposition: ICU pending clinical improvement; likely candidate for
   floor later today
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-12-3**] 01:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-12-1**] 09:10 PM
   Tunneled (Hickman) Line - [**2121-12-1**] 09:12 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: